US04321374
N,N',N",N'"-Tetrakis[2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-1,3,5-triazine-6-yl]-triethylenetetramine
2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine (8.0 g) and triethylenetetramine (0.5 g) were dissolved in dioxane (100 ml) and to the solution was added an aqueous solution of sodium hydroxide (0.7 g) in water (10 ml). The mixture was heated to reflux for 6 hours. Dioxane was distilled off from the reaction mixture and the residue was extracted with benzene. The extract was treated with silica gel column chromatography (eluent=ethyl acetate:benzene:ethanol:triethylamine=20:4:2:1) to give the desired product as white crystals melting at 158° C.

reactant | 2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine | 8.0 g | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)Cl)C1CC(NC(C1)(C)C)(C)C | C25H46ClN7O2
reactant | triethylenetetramine | 0.5 g | NCCNCCNCCN | C6H18N4
reactant | sodium hydroxide | 0.7 g | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | N,N',N",N'"-Tetrakis[2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-1,3,5-triazine-6-yl]-triethylenetetramine | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCCN(CCN(CCNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCC(O)C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCC(O)C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCC(O)C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C106H198N32O8
